US07317014B2
Synthesis of N′-[5,6-diphenyl-2-(trifluoromethyl)pyrimidin-4-yl]acetohydrazide
4-Hydrazino-5,6-diphenyl-2-(trifluoromethyl)pyrimidine (0.7 g, 2.1 mmol) (synthesized according to the procedure described in example 21) in pyridine (10 ml) was added acetylchloride (0.17 g, 2.2 mmol) dropwise at 20° C. under stirring for 10 minutes. After 30 minutes of stirring, the reaction mixture was poured onto ice-water mixture, acidified to pH 4 using hydrochloric acid and extracted with ethyl acetate. The organic extract was washed with water, dried over anhydrous sodium sulphate and concentrated under reduced pressure to afford the crude product, which was purified by column chromatography to furnish the title compound (0.2 g, 25.4%, HPLC purity 99.4%), mp: 113-116° C.

reactant | 4-Hydrazino-5,6-diphenyl-2-(trifluoromethyl)pyrimidine | 2.1 mmol, 0.7 g | N(N)C1=NC(=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)C(F)(F)F | C17H13F3N4
reactant | acetylchloride | 2.2 mmol, 0.17 g | C(C)(=O)Cl | C2H3ClO
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | N′-[5,6-diphenyl-2-(trifluoromethyl)pyrimidin-4-yl]acetohydrazide | 0.2 g, 25.4% | C1(=CC=CC=C1)C=1C(=NC(=NC1C1=CC=CC=C1)C(F)(F)F)NNC(C)=O | C19H15F3N4O
